US06391901B1
Preparation of 2-[4-[2-(Benzoylamino)ethyl]phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene
A solution of 2-[4-(2-aminoethyl)phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene (140 mg) in dichloro-methane (3.0 mL) was treated benzoic acid (40 mg) and DCC (60 mg) sequentially and allowed to stir at ambient temperature for 17 h. The reaction mixture was then concentrated and fractionated by column chromatography with 5% Et3N in EtOAc to afford the product (141 mg).

reactant | 2-[4-(2-aminoethyl)phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene | 140 mg | NCCC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C29H32N2OS
reactant | benzoic acid | 40 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | DCC | 60 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dichloro-methane | 3.0 mL | ClCCl | CH2Cl2
product | 2-[4-[2-(Benzoylamino)ethyl]phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene | 141 mg | C(C1=CC=CC=C1)(=O)NCCC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C36H36N2O2S
